US04971982
152 mg of 4-(6-chloro-2-pyridyl)-3,4-dihydro-2,2-dimethyl-2H-1-benzopyran-6-carbonitrile and 136 mg of m-chloroperbenzoic acid were heated at reflux in 15 ml of chloroform. After 10 hours and 20 hours 80 mg and 50 mg, respectively, of m-chloroperbenzoic acid were added. After 30 hours the mixture was allowed to cool to room temperature, washed in succession with sodium bisulphite solution and sodium bicarbonate solution, dried over sodium sulphate and evaporated. The residue was chromatographed on silica gel using ethyl acetate for the elution to give, after trituration with n-hexane, a solid which was recrystallized from acetonitrile. There were obtained 33 mg of 2-chloro-6-(6-cyano-3,4-dihydro-2,2-dimethyl-2H-1-benzopyran-4-yl)pyridine N-oxide of melting point 195°-196° C.

reactant | 4-(6-chloro-2-pyridyl)-3,4-dihydro-2,2-dimethyl-2H-1-benzopyran-6-carbonitrile | 152 mg | ClC1=CC=CC(=N1)C1CC(OC2=C1C=C(C=C2)C#N)(C)C | C17H15ClN2O
reactant | m-chloroperbenzoic acid | 136 mg | ClC1=CC(=CC=C1)C(=O)OO | C7H5ClO3
solvent | chloroform | 15 ml | C(Cl)(Cl)Cl | CHCl3
product | 2-chloro-6-(6-cyano-3,4-dihydro-2,2-dimethyl-2H-1-benzopyran-4-yl)pyridine N-oxide | 33 mg | ClC1=[N+](C(=CC=C1)C1CC(OC2=C1C=C(C=C2)C#N)(C)C)[O-] | C17H15ClN2O2
